US08067448B2
K2CO3 (1.50 g, 10.9 mmol) was added to a mixture of 4-fluorobenzo[b]thiophene-7-carbonitrile (770 mg, 4.35 mmol) and D-Allo-threonine (620 mg, 5.20 mmol) in DMSO (10 mL) at room temperature. The resulting mixture was heated to 80° C. and stirred for 15 h. After cooling to room temperature, the reaction mixture was poured into ice-water (150 mL) and extracted with 10% EtOAc in hexanes (2×50 mL). The aqueous phase was acidified to pH=2˜3 with 2N HCl and extracted with EtOAc (2×100 mL). The EtOAc extracts were washed with water, brine and dried with Na2SO4. Removal of the solvent gave the crude (2R,3R)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoic acid (1.20 g, ˜100%). 1H NMR (400 MHz, Acetone-d6, δ in ppm) 7.81 (d, J=5.7 Hz, 1H), 7.70 (d, J=5.7 Hz, 1H), 7.64 (d, J=8.2 Hz, 1H), 6.72 (d, J=8.2 Hz, 1H), 6.28 (d, J=8.2 Hz, 1H), 4.33 (m, 2H), 1.39 (d, J=6.4 Hz, 3H).

reactant | K2CO3 | 10.9 mmol, 1.50 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzo[b]thiophene-7-carbonitrile | 4.35 mmol, 770 mg | FC1=CC=C(C=2SC=CC21)C#N | C9H4FNS
reactant | D-Allo-threonine | 5.20 mmol, 620 mg | N[C@H]([C@H](O)C)C(=O)O | C4H9NO3
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | (2R,3R)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoic acid | 1.20 g, ~100% | C(#N)C1=CC=C(C2=C1SC=C2)N[C@@H](C(=O)O)[C@@H](C)O | C13H12N2O3S
